US06982348B2
A solution of ethyl 3-(3-chlorophenyl)-3-oxopropionate (2.74 g, 12.08 mmol) in dimethoxyethane (30 ml) was ice-cooled, and sodium hydride (60%, 0.49 g, 12.08 mmol) was added, and the mixture was stirred under ice-cooling for 30 min. A solution of 1-(bromomethyl)-4-(2,2,3,3,3-pentafluoropropyl)benzene (3.66 g, 12.08 mmol) in dimethoxyethane (15 ml) was added, and the mixture was stirred overnight at room temperature. After completion of the reaction, the reaction was quenched with 0.5N hydrochloric acid. The mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=15:1, 10:1) to give ethyl 3-(3-chlorophenyl)-3-oxo-2-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]propionate (4.64 g, 86%) as colorless crystals.

reactant | ethyl 3-(3-chlorophenyl)-3-oxopropionate | 12.08 mmol, 2.74 g | ClC=1C=C(C=CC1)C(CC(=O)OCC)=O | C11H11ClO3
reactant | sodium hydride | 12.08 mmol, 0.49 g | [H-].[Na+]
reactant | 1-(bromomethyl)-4-(2,2,3,3,3-pentafluoropropyl)benzene | 12.08 mmol, 3.66 g | BrCC1=CC=C(C=C1)CC(C(F)(F)F)(F)F | C10H8BrF5
solvent | dimethoxyethane | 30 ml | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 15 ml | C(OC)COC | C4H10O2
product | ethyl 3-(3-chlorophenyl)-3-oxo-2-[4-(2,2,3,3,3-pentafluoropropyl)benzyl]propionate | 4.64 g, 86% | ClC=1C=C(C=CC1)C(C(C(=O)OCC)CC1=CC=C(C=C1)CC(C(F)(F)F)(F)F)=O | C21H18ClF5O3
